US06245804B1
412 mg of 4-methyl-4-phenyl-2-oxovaleric acid is dissolved in 10 ml of dimethylacetamide and mixed under argon at −8° C. with 261 mg of thionyl chloride. After 20 minutes of stirring at −3 to +3° C., 228 mg of 4-bromo-5-aminophthalide is added. It is stirred for 1.5 hours at room temperature, then mixed with water, extracted with ethyl acetate, the organic phase is washed with water, dried (Na2SO4) and after the solvent is concentrated by evaporation and after treatment with diethyl ether, 360 mg of 4-bromo-5-(4-methyl-2-oxo-4-phenyl-valeroylamino)-phthalide, melting point 150-152° C., is obtained.

reactant | 4-methyl-4-phenyl-2-oxovaleric acid | 412 mg | CC(CC(C(=O)O)=O)(C)C1=CC=CC=C1 | C12H14O3
reactant | thionyl chloride | 261 mg | S(=O)(Cl)Cl | Cl2OS
reactant | 4-bromo-5-aminophthalide | 228 mg | BrC1=C2COC(=O)C2=CC=C1N | C8H6BrNO2
reactant | water | O | H2O
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | 4-bromo-5-(4-methyl-2-oxo-4-phenyl-valeroylamino)-phthalide | 360 mg | BrC1=C2COC(=O)C2=CC=C1NC(C(CC(C)(C1=CC=CC=C1)C)=O)=O | C20H18BrNO4
